US07595414B2
In a 200 mL-volume flask equipped with a stirrer, a thermometer and a dropping funnel was placed 8.00 g (205 mmol) of sodium amide, and the flask was purged with argon. Then, 50 mL of toluene was placed in the flask. Subsequently, 15.0 g (208 mmol) of 2-butanone was slowly dropped into the ice-cooled mixture in the flask, and the resulting mixture was stirred for 10 minutes. The mixture was cooled to 5° C., and Into the cooled mixture was further dropped 8.50 g (72 mmol) of methyl 2-methoxypropionate (prepared by the method of Reference Example 1), and the mixture was stirred for 30 minutes for carrying out a reaction. After the reaction was complete, 40 mL of water was placed in the flask under cooling with ice. The aqueous portion was taken out, made acetic with 2.5 mol/L sulfuric acid, and subjected to extraction with diethyl ether. The diethyl ether extract was washed with water, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated and distilled under reduced pressure (32° C., 26.6 Pa) to give 5.60 g (yield: 49%) of 2-methoxy-3,5-heptanedione as colorless liquid.

reactant | sodium amide | 205 mmol, 8.00 g | [NH2-].[Na+]
reactant | 2-butanone | 208 mmol, 15.0 g | CC(CC)=O | C4H8O
reactant | methyl 2-methoxypropionate | 72 mmol, 8.50 g | COC(C(=O)OC)C | C5H10O3
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | sulfuric acid | 2.5 mol/L | S(O)(O)(=O)=O | H2O4S
solvent | water | 40 mL | O | H2O
product | 2-methoxy-3,5-heptanedione | 5.60 g, yield: 49% | COC(C)C(CC(CC)=O)=O | C8H14O3
